US04639447
138.9 g (790 millimoles) of 2,4-dichlorobenzaldehyde, 76.7 g (710 millimoles) of 2-(1,2,4-triazol-1-yl)-acetonitrile and 1 g of piperidine in 1 l of toluene are heated at the boil under a water separator until 1 equivalent of water has been separated off. The mixture is then left to cool, and the precipitated crystals are filtered off under suction. They can be purified by recrystallization from toluene. 56.5 g (30% of theory) of 3-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-acrylonitrile of melting point 156°-160° C. are obtained.

reactant | 2,4-dichlorobenzaldehyde | 790 millimoles, 138.9 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | 2-(1,2,4-triazol-1-yl)-acetonitrile | 710 millimoles, 76.7 g | N1(N=CN=C1)CC#N | C4H4N4
reactant | water | 1 equivalent | O | H2O
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
catalyst | piperidine | 1 g | N1CCCCC1 | C5H11N
product | 3-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-acrylonitrile | 56.5 g, 30% | ClC1=C(C=CC(=C1)Cl)C=C(C#N)N1N=CN=C1 | C11H6Cl2N4
